US09062055B2
Step 7. tert-Butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate
Di-tert-butyldicarbonate (0.23 mL, 1.0 mmol) was added to a mixture of 1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethanamine (0.17 g, 0.67 mmol) and triethylamine (0.46 mL, 3.3 mmol) in tetrahydrofuran (3 mL). After 30 minutes, the mixture was quenched with saturated NaHCO3 and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-20% EtOAc in hexane) to give the desired product (35 mg). LCMS calculated for C21H24FN2O2(M+H)+: m/z=355.2. Found: 355.1.

reactant | Di-tert-butyldicarbonate | 1.0 mmol, 0.23 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethanamine | 0.67 mmol, 0.17 g | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)N | C16H15FN2
reactant | triethylamine | 3.3 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-Butyl {1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 35 mg | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)NC(OC(C)(C)C)=O | C21H23FN2O2
